US05364561
After 4'-n-decyl-4-carboxybiphenyl (3.10 g) was heated under reflux for 6 hours together with an excessive amount of thionyl chloride, unaltered thionyl chloride was removed by distillation to give about 3 g of 4'-n-decylbiphenyl-4-carboxylic acid chloride.

reactant | 4'-n-decyl-4-carboxybiphenyl | 3.10 g | C(CCCCCCCCC)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C23H30O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 4'-n-decylbiphenyl-4-carboxylic acid chloride | about 3 g | C(CCCCCCCCC)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)Cl | C23H29ClO
